US06544985B2
[2-Amino-5-(cyclopropyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester
The title compound was prepared from [5-(cyclopropyl-methyl-amino)-2-nitro-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester (Example C17) (3.74 g, 9.96 mmol) by reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as an orange semisolid (2.00 g).

reactant | [5-(cyclopropyl-methyl-amino)-2-nitro-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | 9.96 mmol, 3.74 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C1CC1)C(F)(F)F)[N+](=O)[O-])=O | C16H20F3N3O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | [2-Amino-5-(cyclopropyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C1CC1)C(F)(F)F)N)=O | C16H22F3N3O2
